US07728018B2
2-Chloro-N-[(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyl-sulfanyl-methylene]benzenesulfon-amide
500 mg 4-Ethyl-4,5-dihydro-1H-pyrazole was dissolved in 10 mL pyridine. 1.51 g N-(Bis-methylsulfanyl-methylene)-2-chloro-benzenesulfonamide was added and the mixture was refluxed overnight. The mixture was concentrated in vacuo and H2O was added, followed by extraction twice with DCM. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The crude product was purified with flash chromatography (gradient DCM:acetone=100:0 to 95:5) to yield 1.30 g of a yellow oil. 1H NMR (400 MHz, CDCl3) δ 1.02 (t, J=7.5 Hz, 3H), 1.55-1.77 (m, 2H), 2.28 (s, 3H), 3.27-3.39 (m, 1H), 4.13 (dd, J=11.5 and 6.5 Hz, 1H), 4.58 (t, J=11.5 Hz, 1H), 7.16 (d, J=2 Hz, 1H), 7.39 (dt, J=7.5 and 2 Hz, 1H), 7.46 (dt, J=7.5 and 2 Hz, 1H), 7.52 (dd, J=7.5 and 2 Hz, 1H), 8.17 (dd, J=7.5 and 2 Hz, 1H).

reactant | 4-Ethyl-4,5-dihydro-1H-pyrazole | 500 mg | C(C)C1C=NNC1 | C5H10N2
reactant | N-(Bis-methylsulfanyl-methylene)-2-chloro-benzenesulfonamide | 1.51 g | CSC(=NS(=O)(=O)C1=C(C=CC=C1)Cl)SC | C9H10ClNO2S3
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-N-[(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyl-sulfanyl-methylene]benzenesulfon-amide | 1.30 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C(SN1N=CC(C1)CC)C | C13H16ClN3O2S2
